US07741327B2
To a stirred solution of (S)-3-cyclohexyl-2-[4-(2-isopropoxy-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-propionic acid methyl ester (710 mg, 0.002 mol) in tetrahydrofuran-water (3:1, 15 mL) was added lithium hydroxide (223 mg, 0.009 mol). The reaction mixture was stirred at 23° C. for 2 h. After this time, the mixture was concentrated and the reaction mixture was diluted with water. The reaction mixture was acidified with 2N hydrochloric acid, during which time precipitation occurred. The precipitate was removed by filtration, washed with cold water and dried in vacuo to obtain (S)-3-cyclohexyl-2-[4-(2-isopropoxy-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-propionic acid (620 mg, 90%) as a light brown solid.

reactant | (S)-3-cyclohexyl-2-[4-(2-isopropoxy-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-propionic acid methyl ester | 0.002 mol, 710 mg | COC([C@H](CC1CCCCC1)N1C(C=C(C1)OC1=C(C=CC=C1)OC(C)C)=O)=O | C23H31NO5
reactant | lithium hydroxide | 0.009 mol, 223 mg | [OH-].[Li+]
solvent | tetrahydrofuran water | 15 mL | O1CCCC1.O
product | (S)-3-cyclohexyl-2-[4-(2-isopropoxy-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-propionic acid | 620 mg, 90% | C1(CCCCC1)C[C@@H](C(=O)O)N1C(C=C(C1)OC1=C(C=CC=C1)OC(C)C)=O | C22H29NO5
